US04966905
2,2-Dimethyl-5-[2-(2-pyridinyl)ethenyl]-3(2H)-furanone
To a solution of 2-pyridinecarboxaldehyde (1.1 g, 9.9 mM) and 2,2,5-trimethyl-3(2H)-furanone (1.5 g, 11.9 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.2 mL, 1.2 mM). The reaction solution was stirred at room temperature for 2 days. After saturated aqueous sodium chloride (400 mL) was added, the aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a brown solid. The residue was purified by chromatography (silica gel, pet. ether/ethyl acetate) to yield yellow crystals (1.6 g, 75% yield), m.p. 87.5°-89.0° C.

reactant | 2-pyridinecarboxaldehyde | 9.9 mM, 1.1 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 2,2,5-trimethyl-3(2H)-furanone | 11.9 mM, 1.5 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.2 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,2-Dimethyl-5-[2-(2-pyridinyl)ethenyl]-3(2H)-furanone | 1.6 g, 75% yield | CC1(OC(=CC1=O)C=CC1=NC=CC=C1)C | C13H13NO2
